US04188390
4-Amino-2-chloro-6,7-dimethoxyquinazoline (140 g.) and N-(1,4-benzodioxan-2-carbonyl)piperazine (150 g.) were stirred together under reflux in n-butanol (2 l.) for 31/2 hours. The mixture was then cooled to 80° C., the solid product collected, washed with cold n-butanol (2×250 ml.), and dried. The crude product was dissolved in hot (80° C.) dimethylformamide (530 ml.) and water (130 ml.), filtered, concentrated in vacuo to about 300 ml., then cooled and ether (1.8 l.) added. The solid so obtained was collected and washed with ether to give 4-amino-2-[4-(1,4-benzodioxan-2-carbonyl)piperazin-1-yl]-6,7-dimethoxyquinazoline hydrochloride (215 g.), m.p. 289°-290° C.

reactant | 4-Amino-2-chloro-6,7-dimethoxyquinazoline | 140 g | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | N-(1,4-benzodioxan-2-carbonyl)piperazine | 150 g | O1C(COC2=C1C=CC=C2)C(=O)N2CCNCC2 | C13H16N2O3
solvent | n-butanol | 2 l | C(CCC)O | C4H10O
product | 4-amino-2-[4-(1,4-benzodioxan-2-carbonyl)piperazin-1-yl]-6,7-dimethoxyquinazoline hydrochloride | 215 g | Cl.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C(=O)C1COC2=C(O1)C=CC=C2 | InChI=1S/C23H25N5O5.ClH/c1-30-18-11-14-15(12-19(18)31-2)25-23(26-21(14)24)28-9-7-27(8-10-28)22(29)20-13-32-16-5-3-4-6-17(16)33-20;/h3-6,11-12,20H,7-10,13H2,1-2H3,(H2,24,25,26);1H
